US08039514B2
(Step A) Synthesis of 1-ethyl-4-(2-methylallyl)benzene
Under nitrogen atmosphere, tetrahydrofuran (KANTO, 8.1 mL) was added to magnesium (WAKO, 263 mg) and iodide (WAKO, 1 mg), followed with addition of tetrahydrofuran (KANTO, 5.5 mL) solution comprising 1-bromo-4-ethylbenzene (TCI, 2.0 g). The mixture was stirred at room temperature for 30 minutes. The reaction solution was cooled to 0° C. and added with copper iodide (WAKO, 205 mg) and 3-chloro-2-methyl-1-propene (WAKO, 1.32 mL) followed by stirring at room temperature for 1 hour and 30 minutes. The reaction solution was cooled and added with saturated ammonium chloride solution, and further added with sodium sulfate. The reaction mixture was filtered, and concentrated under reduced pressure to obtain a crude product, which was then purified by silica gel column chromatography to obtain the target compound (500 mg).

reactant | magnesium | 263 mg | [Mg] | Mg
reactant | 1-bromo-4-ethylbenzene | 2.0 g | BrC1=CC=C(C=C1)CC | C8H9Br
reactant | 3-chloro-2-methyl-1-propene | 1.32 mL | ClCC(=C)C | C4H7Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | tetrahydrofuran | 5.5 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 8.1 mL | O1CCCC1 | C4H8O
catalyst | copper iodide | 205 mg | [Cu](I)I
catalyst | iodide | 1 mg | [I-]
product | 1-ethyl-4-(2-methylallyl)benzene | 500 mg | C(C)C1=CC=C(C=C1)CC(=C)C | C12H16
